US05179085
STEP B: Preparation of [4-[(Tetrahydro-2H-pyran2-yl)oxy]-1-butynyl]-phosphonic acid, diethyl ester
A solution of tetrahydro-2-(3-butynyloxy)2H-pyran (20 g, 0.13 mol) in anhydrous tetrahydrofuran (200 ml) is cooled in a dry ice-acetone bath and treated dropwise with n-butyllithium (2.5M in hexane, 0.13 mol) in tetrahydrofuran (20 ml). The anion is stirred for 30 minutes and treated with diethyl chlorophosphate in tetrahydrofuran added via a slow stream. The reaction mixture is stirred 15 minutes and then warmed to room temperature overnight. A saturated aqueous solution of sodium bicarbonate (125 ml) is added and the mixture extracted with ethyl acetate (2×150 ml). The organic layer is separated, dried (magnesium sulfate), filtered and evaporated. The residue is chromatographed over silica gel and eluted with ethyl acetate in chloroform to give the title compound.

reactant | tetrahydro-2-(3-butynyloxy)2H-pyran | 0.13 mol, 20 g | C(CC#C)OC1OCCCC1 | C9H14O2
reactant | n-butyllithium | 0.13 mol, 2.5M | C(CCC)[Li]
reactant | diethyl chlorophosphate | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
reactant | sodium bicarbonate | 125 ml | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | [4-[(Tetrahydro-2H-pyran2-yl)oxy]-1-butynyl]-phosphonic acid, diethyl ester | O1C(CCCC1)OCCC#CP(OCC)(OCC)=O | C13H23O5P
